US04056630
p-Chlorophenyl-phenylacetaldehyde (5.68g.) was reacted with dimethylsulphoxonium methylide and the crude epoxide obtained further reacted with dimethylamine in ethanol by the procedures described in Example 8 to give 3-dimethylamino-1-p-chlorophenyl-1-phenyl-propan-2-ol (2.6g., 37% from aldehyde) as an oil.

reactant | p-Chlorophenyl-phenylacetaldehyde | 5.68g | ClC1=CC=C(C=C1)C(C=O)C1=CC=CC=C1 | C14H11ClO
reactant | dimethylamine | CNC | C2H7N
reactant | ethanol | C(C)O | C2H6O
product | 3-dimethylamino-1-p-chlorophenyl-1-phenyl-propan-2-ol | 2.6g, 37% | CN(CC(C(C1=CC=CC=C1)C1=CC=C(C=C1)Cl)O)C | C17H20ClNO
